US04755505
1-[2-(Dimethylamino)Ethyl]-4,5-Dihydro-5-(4-Methoxyphenyl)-1-Benzazocine-2,6(1H,3H)-Dione
To azeotropically dried 4,5-Dihydro-5-(4-methoxyphenyl)-1-benzazocine-2,6(1H,3H)-dione (1.80 g) in toluene (40 ml) was added 60% sodium hydride in mineral oil (0.27 g) and the mixture stirred under nitrogen at room temperature overnight. The slurry was stirred and heated to 70° for 15 minutes, and the freshly prepared N,N-dimethylaminoethyl chloride (1.25 g) was slowly added. After a half an hour at 70°, a further 1.25 g of N,N-dimethylaminoethyl chloride was added. The temperature was then raised to 90° and maintained for 3 hours. The cooled reaction mixture was filtered through sintered glass and the filtered solid discarded. The filtrate was evaporated and the residue was triturated with ether. The resulting white solid was collected on a filter; wt. 1.58 g (72%), mp=115-116. Recrystallization from ether gave pure titled product; wt. 1.25 g, mp=116°-117°.

reactant | 4,5-Dihydro-5-(4-methoxyphenyl)-1-benzazocine-2,6(1H,3H)-dione | 1.80 g | COC1=CC=C(C=C1)C1CCC(NC2=C(C1=O)C=CC=C2)=O | C18H17NO3
reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethylaminoethyl chloride | 1.25 g | CN(C)CCCl | C4H10ClN
reactant | N,N-dimethylaminoethyl chloride | 1.25 g | CN(C)CCCl | C4H10ClN
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(Dimethylamino)Ethyl]-4,5-Dihydro-5-(4-Methoxyphenyl)-1-Benzazocine-2,6(1H,3H)-Dione | CN(CCN1C(CCC(C(C2=C1C=CC=C2)=O)C2=CC=C(C=C2)OC)=O)C | C22H26N2O3
